US08614206B2
Following the procedure for Intermediate 22 starting from 5-bromo-4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazole and tert-butyl 1,4-diazepane-1-carboxylate gave tert-butyl 4-(4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)-1,4-diazepane-1-carboxylate as a pale yellow gum (197 mg, 91%). 1H NMR (400 MHz, CDCl3) δ 8.19-8.12 (m, 1H), 4.76-4.66 (m, 2H), 3.65-3.49 (m, 4H), 3.32-3.23 (m, 4H), 1.92-1.78 (m, 2H), 1.52-1.47 (m, 9H).

reactant | 5-bromo-4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazole | BrC1=C(C=NN1CC(F)(F)F)[N+](=O)[O-] | C5H3BrF3N3O2
reactant | tert-butyl 1,4-diazepane-1-carboxylate | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
product | tert-butyl 4-(4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)-1,4-diazepane-1-carboxylate | 197 mg, 91% | [N+](=O)([O-])C=1C=NN(C1N1CCN(CCC1)C(=O)OC(C)(C)C)CC(F)(F)F | C15H22F3N5O4
